US05478842
Using an analogous procedure to that described in Example 5, 6-iodo-1-methyl-1,2,3,4-tetrahydroquinolin-2-one was reacted with 4-hydroxy-4-(2-mercaptothien-4-yl)-2,2-dimethyltetrahydropyran to give 4-hydroxy-2,2-dimethyl-4-[2-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thien-4-yl]tetrahydropyran in 72% yield as a foam;

reactant | 6-iodo-1-methyl-1,2,3,4-tetrahydroquinolin-2-one | IC=1C=C2CCC(N(C2=CC1)C)=O | C10H10INO
reactant | 4-hydroxy-4-(2-mercaptothien-4-yl)-2,2-dimethyltetrahydropyran | OC1(CC(OCC1)(C)C)C=1C=C(SC1)S | C11H16O2S2
product | 4-hydroxy-2,2-dimethyl-4-[2-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thien-4-yl]tetrahydropyran | 72% yield | OC1(CC(OCC1)(C)C)C=1C=C(SC1)SC=1C=C2CCC(N(C2=CC1)C)=O | C21H25NO3S2
